US03971773
A. 16α-Allyloxy-11β,17,21-trihydroxypregn-4-ene-3,20-dione
11β,16α,17,21-Tetrahydroxypregn-4-ene-3,20-dione, 16,17-cycloborate is added to a solution of vinyl diazomethane in 1:1 methanol-ether at 0°C until nitrogen evolution ceases. The solvent is evaporated to yield the title compound.

reactant | 11β,16α,17,21-Tetrahydroxypregn-4-ene-3,20-dione | O[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@](C(CO)=O)([C@]2(C1)C)O)O)=O)C | C21H30O6
reactant | vinyl diazomethane | C(=C)C=[N+]=[N-] | C3H4N2
product | 16α-Allyloxy-11β,17,21-trihydroxypregn-4-ene-3,20-dione | C(C=C)O[C@H]1[C@](C(CO)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O | C24H34O6
